US04667020
121 parts of valeryl chloride are added to a mixture of 181 parts of p-nitrobenzoic acid hydrazide, 101 parts of triethylamine and 1,000 parts of N-methylpyrrolidone, while cooling with ice. The solution is then stirred for a further 4 hours at room temperature, after which it is poured into 5,000 parts of water, and the resulting precipitate is filtered off under suction, washed with water and dried. 250 parts (95% of theory) of N-(p-nitrobenzoyl)-N'-valerylhydrazine of melting point 185°-187° C. are obtained.

reactant | valeryl chloride | C(CCCC)(=O)Cl | C5H9ClO
reactant | p-nitrobenzoic acid hydrazide | [N+](=O)([O-])C1=CC=C(C(=O)NN)C=C1 | C7H7N3O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | N-(p-nitrobenzoyl)-N'-valerylhydrazine | 95% | [N+](=O)([O-])C1=CC=C(C(=O)NNC(CCCC)=O)C=C1 | C12H15N3O4
